US07132419B2
Treatment of 5-chloro-tetralone with selenium dioxide as described in Reference Example 1A yielded 5-chloro-[1,2]naphthoquinone which was coupled with 2,3-diamino-benzoic acid, diacetate salt, as described in Reference Example 1A to yield the title compound.

reactant | 5-chloro-tetralone | ClC1=C2CCCC(C2=CC=C1)=O | C10H9ClO
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | 5-chloro-[1,2]naphthoquinone | ClC1=C2C=CC(C(C2=CC=C1)=O)=O | C10H5ClO2
